US07071177B2
To 500 mg (2.87 mmol) 4-fluorophenyl methyl sulfone dissolved in 4 mL DMF was added 247 mg (2.87 mmol) 3-aminopyrrolidine followed by 793 mg (5.74 mmol) potassium carbonate. The mixture was heated to 70° C. and stirred for 48 h. Upon cooling to room temperature, the mixture was partitioned between EtOAc and water, dried over MgSO4 and concentrated to provide 708 mg of 4-(pyrrolidin-3-ylamino)phenyl methyl sulfone, pure by 1H NMR.

reactant | 4-fluorophenyl methyl sulfone | 2.87 mmol, 500 mg | CS(=O)(=O)C1=CC=C(C=C1)F | C7H7FO2S
reactant | 3-aminopyrrolidine | 2.87 mmol, 247 mg | NC1CNCC1 | C4H10N2
reactant | potassium carbonate | 5.74 mmol, 793 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 4-(pyrrolidin-3-ylamino)phenyl methyl sulfone | 708 mg | CS(=O)(=O)C1=CC=C(C=C1)NC1CNCC1 | C11H16N2O2S
